US06103926
Preparation of Ethyl 4-(Bromomethyl)benzoate (EBMB)
An ethyl 4-methylbenzoate (EMB) solution (1134 g in chlorobenzene (CB), ~43 wt. %, 2.93 mol) was charged into a 2-Liter round bottomed flask equipped with mechanical stirrer (300 RPM stirring rate) and a cooling condenser, and heated. The temperature controller was set at 140° C., and a scrubber was connected to the condenser. Liquid bromine (275 g, 1.72 mol or ~59 mol %, Aldrich, 99.5+%, A.C.S. reagent) was fed via Viton tubings, and the bromine feed rate was adjusted to 1.00 mL/minute for the first 30 mol % of bromine and then to 0.50 mL/minute for the rest of the addition at 140° C. Heating and stirring was continued for a few minutes after all bromine was added and the hot mixture was purged with nitrogen for 20 minutes, then allowed to cool to obtain 1183 g crude reaction mixture (some materials were used for routine analysis). The GC wt. % analysis of the crude reaction mixture indicated the following:

reactant | ethyl 4-methylbenzoate | 2.93 mol, 1134 g | CC1=CC=C(C(=O)OCC)C=C1 | C10H12O2
reactant | bromine | 1.72 mol, 275 g | BrBr | Br2
product | Ethyl 4-(Bromomethyl)benzoate | BrCC1=CC=C(C(=O)OCC)C=C1 | C10H11BrO2
